US07214835B2
1,7,8-Trifluoronaphthalene-2-yl trifluoromethanesulfonate (15 g), 4-propylphenylboric acid (11.2 g), potassium carbonate (18.8 g), tetrakis(triphenylphosphine)palladium(0) (1 g), toluene (50 ml), tetrahydrofuran (50 ml), and water (20 ml) were added in an autoclave and stirred for 4 hours at 90° C. under pressurized nitrogen (2 kg/cm2). The reaction solution was poured into water. The organic layer was removed, and the aqueous layer was extracted with toluene. The organic layers were combined, washed with 10% hydrochloric acid and brine, and concentrated. The residue was purified by column chromatography (silica gel, hexane), and 2-(4-propylphenyl)-1,7,8-trifluoronaphthalene was obtained.

reactant | 1,7,8-Trifluoronaphthalene-2-yl trifluoromethanesulfonate | 15 g | FC(S(=O)(=O)OC1=C(C2=C(C(=CC=C2C=C1)F)F)F)(F)F | C11H4F6O3S
reactant | 4-propylphenylboric acid | 11.2 g | C(CC)C1=CC=C(C=C1)OB(O)O | C9H13BO3
reactant | potassium carbonate | 18.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-propylphenyl)-1,7,8-trifluoronaphthalene | C(CC)C1=CC=C(C=C1)C1=C(C2=C(C(=CC=C2C=C1)F)F)F | C19H15F3
